US06552068B1
A solution of 7-methoxy-3-(4-methoxyphenyl)-3-propylthiochroman-4-one (1.7 g, 4.96 mmol) in anhydrous tetrahydrofuran (30 ml) was cooled to −78° C. Lithium aluminum hydride (94.2 mg, 2.48 mmol) was added to this solution, followed by stirring for 12 hours at room temperature. Saturated aqueous ammonium chloride (100 ml) was added to the reaction mixture, which was then extracted twice with ethyl acetate (100 ml). The combined organic layers were washed with water and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. After distilling off the solvent, zinc iodide (1.9 g, 5.95 mmol) and allyltrimethylsilane (1.57 ml, 5.95 mmol) were added dropwise to a solution of the residue in 1,2-dichloroethane (50 ml) at 0° C., followed by stirring for 12 hours at room temperature. Water was added to the reaction mixture, which was then extracted twice with dichloromethane. The combined organic layers were washed with water and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by silica gel column chromatography (eluent:ethyl acetate/hexane=1/90) to give (3RS,4RS)-7-methoxy-3-(4-methoxyphenyl)-4-(2-propenyl)-3-propylthiochroman (1.32 g, Yield 72%).

reactant | 7-methoxy-3-(4-methoxyphenyl)-3-propylthiochroman-4-one | 4.96 mmol, 1.7 g | COC1=CC=C2C(C(CSC2=C1)(CCC)C1=CC=C(C=C1)OC)=O | C20H22O3S
reactant | Lithium aluminum hydride | 2.48 mmol, 94.2 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
reactant | allyltrimethylsilane | 5.95 mmol, 1.57 ml | C(C=C)[Si](C)(C)C | C6H14Si
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
catalyst | zinc iodide | 5.95 mmol, 1.9 g | [I-].[Zn+2].[I-]
solvent | Water | O | H2O
product | (3RS,4RS)-7-methoxy-3-(4-methoxyphenyl)-4-(2-propenyl)-3-propylthiochroman | 1.32 g, Yield 72% | COC1=CC=C2C(C(CSC2=C1)(CCC)C1=CC=C(C=C1)OC)CC=C | C23H28O2S
